Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been feeling distressed and wanted to be dead"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o male with past hx of anxiety and depression, who presents
to ___ at the behest of visiting OT due to concerns about
suicidal ideation, with reported history of worsening depressive
symptoms in the setting of recent motorcycle accident which has
resulted in the patient being wheelchair bound for at least
several months. 

On interview, patient reports that since discharge from 
___ two weeks ago he has been feeling increasingly depressed
with low mood, increased anxiety, poor appetite, and poor sleep
___ hours on average per night). He also endorses feelings of
wanting to be dead, feelings of hopelessness and thoughts of
hanging himself from the chandelier at his house. He denies ever
acting on these thoughts or making plans to hang himself. He
denies prior suicide attempts but endorses suicidal ideation on
and off for several years now. 
He reports that on ___ he was in a motorcycle accident 
after
which he was hospitalized at ___, had multiple surgeries, and 
was
discharged to ___. He reports his depressive 
symptoms
got worse in rehab when he thought about being in a wheelchair
for at least 10 weeks but then acutely worsened upon discharge.
He reports that his sister is great source of support for him 
but
recently went to ___. He has visiting nurse services
currently and reported his worsening depressive symptoms to the
visiting OT who suggested he come to the emergency room. 

He reports many PTSD symptoms including hypervigilance,
flashbacks and nightly nightmares. He reports he has anxiety
regarding "everything" with acute attacks where he has 
difficulty
breathing with racing thoughts and palpitations. 
Denies history of manic symptoms. Reports auditory 
hallucinations
that have occurred for years, mostly when it is quiet and he is
alone. He describes these hallucinations as "quarreling voices"
which he describes as being inside his head. He also reports
hearing "pots banging" and "buzzing" at times when alone. He
reports that he knows these noises are not real, but that they
give him anxiety. He denies current or history of ___. Describes
paranoia regarding people he sees on the street and attributes
this to his history of involvement in gangs and volatile past
romantic relationships. He denies ideas of reference. Reports
passive SI, denies current intent. Denies HI. 

Collateral from Dr. ___ ___ ED consult note:
"Writer spoke to ___ visiting OT (___)
felt overwhelmed, like it would be better if he weren't alive.
doesn't have any hot water, unable to get out of his house,
because he is in a wheelchair. sister lives above him and was
able to provide assistance for him but recently left to ___.  

Writer spoke to ___ psych NP ___ who has been working
with patient for ___ years, consistently for ___ years. Last saw
him in ___ and spoke to him during his ___
hospitalization. Did not know that patient had self decreased 
his
prazosin. States current regimen had been effective." 

 
Past Medical History:
Anxiety
Depression
PTSD
L femur/R ankle fractures s/p surgical repair
Onychomycosis
Urinary retention
 
Social History:
Childhood: born and raised in ___. states his childhood
was "tough" became involved in gangs at age of ___. 
Relationships: sister ___ who is main support, parents moved
back to ___ ___ years ago; has ___ y/o son in ___, sees him
intermittently
Trauma: extensive, hx of being stabbed by ex-GF in prescence of
her children a couple years ago, hx of physical assault, hx of
being shot at, hx of sexual molestation at age of ___ by older
cousin 
Education: ___ grade, left because his GF was pregnant
Income: currently none, previously working as ___,
denies SSI/SSDI
Religion: Catholic
Patient currently lives in his parents house in ___ in
first floor apartment (sister lives on second floor). He reports
there are plans to sell the house in ___ and ___ does not have
any plans of where he will live or how he will support himself
following the sale of the house. 
 
Family History:
sister with anxiety
report strong maternal hx of mental illness. maternal cousin
attempted suicide, couple maternal aunts have had
hospitalization, cousins with ___ and/or substance abuse
 
Physical Exam:
General: NAD. Well-nourished, well-developed. Appears stated 
age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs appreciated 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: R ankle swelling 
Skin: No rashes noted, R ankle with well-healing scar
 
Pertinent Results:
___ 04:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-POS* mthdone-NEG
___ 04:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:00PM   WBC-6.6 RBC-3.66* HGB-10.8*# HCT-34.3* MCV-94 
MCH-29.5 MCHC-31.5* RDW-13.6 RDWSD-46.5*
___ 03:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

___ 03:00PM BLOOD Glucose-99 UreaN-15 Creat-0.9 Na-139 
K-4.0 Cl-102 HCO3-24 AnGap-17
___ 06:15AM BLOOD ALT-36 AST-23 AlkPhos-189* TotBili-0.3
___ 06:15AM BLOOD VitB12-330 Folate-18
___ 06:15AM BLOOD TSH-5.2*
___ 06:15AM BLOOD T4-7.___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) MDD, without psychotic features 

- On admission, discussed risks and benefits of decreasing 
___ given limited evidence of primary psychotic disorder or 
mood disorder with psychotic symptoms. Given above history and 
presentation, etiology is most likely secondary to traumatic 
symptoms. However, patient did not wish to decrease ___, and 
his outpatient provider stated that ___ has worked well for 
him.  Patient was continued on 10 mg po qhs. 
- Discussed risks and benefits of initiating Remeron for sleep 
and to target depressive symptoms. Started Remeron 15 mg po qhs, 
which patient tolerated well. 
- The patient's home Lexapro 20 mg po qd was continued during 
admission. 
- The patinet's home Trazodone 50 mg po qhs was held on 
admission as Remeron was started in order to to avoid 
polypharmacy. 
- The patient's home Seroquel was held on admission to avoid 
polypharmacy as well. 
- Patient's home Clonazepam 0.5 mg po bid prn was continued. 
- Checked TSH was elevated, however fT4 was wnl, so did not 
initiate synthroid. 
- Discussed options with the patient for getting the heat and 
hot water turned back on at his home. Social work gave him 
information about the ABCD energy program and they need him to 
go in for an intake. he has decided to wait until his sister 
gets home to apply for services.

#. PTSD: By history
- The patient was prescribed prazosin 2 mg PO QHS for 
nightmares, however patient reported only taking 2 mg PO QHS. He 
was restarted on prazosin 4 mg QHS. Prazosin was not increased 
further in order to minimize fall risk. 

4. MEDICAL
#) S/p motorcycle accidents: with numerous fractures
- Patient was continued on Lovenox for DVT prophylaxis and 
oxycodone 5 mg PO q4h PRN pain. 

#. Urinary retention: stable
- Patient was continued on his home Tamulosin.  

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient declined attending groups, stating that he has 
difficulty around groups of people. However, he was frequently 
visible in the milieu and pleasant and social with peers. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Discussed patient's hospitalization with his outpatient 
provider, ___.  He was notified of the patient's 
medication changes, and was in agreement with the patient 
following up with him next week. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
taking mirtazapine, olanzapine, and prazosin. Discussed the 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.   We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any  questions about medications 
with the treatment team, and answered the patient's questions.  
The patient appeared able to understand and consented to begin 
the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon severe psychosocial 
stressors, history of trauma, positive suicidal ideation, 
insomnia, lacking social supports, and male sex. During 
hospitalization, the patient's sleep and mood improved with 
adjustments in his medication regimen.  He was also given 
resources to help assist him with his living situation.  The 
patient is being discharged with many protective risk factors, 
including help-seeking nature, future-oriented viewpoint, 
positive therapeutic relationship with outpatient providers, and 
lack of suicidal ideation.  Overall, based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Major Depressive Disorder without psychotic features
Post traumatic stress disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

Cognition: 
 Wakefulness/alertness: alert and engaged in interview 
 *Attention (MOYB): attentive to interview 
 *Orientation: oriented x3 
 *Memory: grossly intact to recent and remote events  
 *Speech: normal tone, volume, rate and prosody
 *Language: fluent ___
 
Mental Status:
Appearance: No apparent distress, appears stated age, well 
groomed
Behavior: Calm, cooperative, fair eye contact, no psychomotor
agitation or retardation
Mood and Affect: 'good' / euthymic, congruent to mood 
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: fair/fair

 
Discharge Instructions:
Discharge Instructions:
You were hospitalized at ___ for depression and suicidal 
thoughts.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___